US06660753B2
A mixture of 3-methoxycarbonyl-5-iodobenzamide (2.5 g, 8.2 mmol) in thionyl chloride (2 mL) was heated for 2 hours at 90° C. The reaction mixture was cooled and concentrated in vacuo. Silica gel chromatography afforded 670 mg (29%) of methyl-3-cyano-5-iodobenzoate, as a white solid.

reactant | 3-methoxycarbonyl-5-iodobenzamide | 8.2 mmol, 2.5 g | COC(=O)C=1C=C(C(=O)N)C=C(C1)I | C9H8INO3
solvent | thionyl chloride | 2 mL | S(=O)(Cl)Cl | Cl2OS
product | methyl-3-cyano-5-iodobenzoate | 670 mg, 29% | COC(C1=CC(=CC(=C1)I)C#N)=O | C9H6INO2
